US05373008
Reaction of 5-fluoro-2-morpholinophenyl isothiocyanate (5.8 g) with 33% ethanolic ammonia solution (30 ml) at room temperature for 3 hours gave 1-(5-fluoro-2-morpholinophenyl)thiourea as a white solid (m.p. 195-196).

reactant | 5-fluoro-2-morpholinophenyl isothiocyanate | 5.8 g | FC=1C=CC(=C(C1)N=C=S)N1CCOCC1 | C11H11FN2OS
reactant | ammonia | 30 ml | N | H3N
product | 1-(5-fluoro-2-morpholinophenyl)thiourea | FC=1C=CC(=C(C1)NC(=S)N)N1CCOCC1 | C11H14FN3OS
